US07902219B2
120 mg of phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone are taken up in 2 mL of methanol and the solution is treated with 2 mL of a 4N solution of hydrogen chloride in dioxane and then with 2 mL of diethyl ether. The solution is stirred for 16 hours at room temperature and then concentrated under reduced pressure. The solid obtained is dried to give 85 mg of phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone hydrochloride (1:1) in the form of a beige-colored solid.

reactant | phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone | 120 mg | C1(=CC=CC=C1)C(=O)C=1N=C2N(C=C(C=C2)C(F)(F)F)C1 | C15H9F3N2O
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone hydrochloride | 85 mg | Cl.C1(=CC=CC=C1)C(=O)C=1N=C2N(C=C(C=C2)C(F)(F)F)C1 | InChI=1S/C15H9F3N2O.ClH/c16-15(17,18)11-6-7-13-19-12(9-20(13)8-11)14(21)10-4-2-1-3-5-10;/h1-9H;1H
